US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (538 mg, 2.69 mmol) and N,N-diisopropylethylamine (347 mg, 0.468 mL, 2.69 mmol) were added to a suspension of N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxy-2-methylpropanamide (283 mg, 0.895 mmol) in n-BuOH (3 mL). The resulting mixture was heated at 150° C. in a sealed tube for 24 hours. The cooled mixture was diluted with water and extracted with EtOAc (3×20 mL). The combined organic layers were dried over MgSO4 and filtered, and the filtrate concentrated to an oil and purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 15-75% CH3CN/water, 25CV) to give (R)-tert-butyl 1-(5-bromo-3-(2-hydroxy-2-methylpropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (242 mg, 55% yield) as a solid. LCMS (APCI+) m/z 496.2, 498.2 (M+H)+, Retention time=3.53 minutes.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 2.69 mmol, 538 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N,N-diisopropylethylamine | 2.69 mmol, 0.468 mL, 347 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-hydroxy-2-methylpropanamide | 0.895 mmol, 283 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)(C)O)=O)F | C11H11BrFN3O2
reactant | CH3CN water | CC#N.O
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
solvent | water | O | H2O
product | (R)-tert-butyl 1-(5-bromo-3-(2-hydroxy-2-methylpropanamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 242 mg, 55% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C(C)(C)O)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C21H30BrN5O4
